US04997840
Sodium methoxide (4.37 g) was added to a solution of 2-[4,5-difluoro-2-(N-methylformamido)phenyl]-2oxoethyl benzoate (11.2 g) in dichloromethane (840 ml) at 0° under nitrogen and the mixture stirred for 90 minutes. The mixture was extracted with water (11) and then aqueous sodium hydroxide (5M, 2×100 ml). The combined extracts were acidified with hydrochloric acid (5M, 250 ml). The precipitate was collected by filtration and washed with water (100 ml) to give the novel compound 6,7-difluoro-3-hydroxy-l-methyl-4quinolone, m.p. 264°-265°.

reactant | Sodium methoxide | 4.37 g | C[O-].[Na+]
reactant | 2-[4,5-difluoro-2-(N-methylformamido)phenyl]-2oxoethyl benzoate | 11.2 g | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=C(C(=C1)F)F)N(C=O)C | C17H13F2NO4
solvent | dichloromethane | 840 ml | ClCCl | CH2Cl2
product | 6,7-difluoro-3-hydroxy-l-methyl-4quinolone | FC=1C=C2C(C(=CN(C2=CC1F)C)O)=O | C10H7F2NO2
